US08648038B2
3-{4-[2-(3-Isopropylphenoxy)propionylamino]phenyl}hex-4-ynoic acid
A solution of 156 mg of ethyl 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}-hex-4-ynoate in 7 ml of acetonitrile and 7 ml of 1 N NaOH (aq) was stirred at room temperature for 18 h. The reaction mixture was admixed with water and adjusted to pH=1 with 1 N HCl (aq) and then extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under high vacuum. This gave 109 mg of 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}hex-4-ynoic acid in 37% yield over the two stages.

reactant | ethyl 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}-hex-4-ynoate | 156 mg | C(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(CC(=O)OCC)C#CC)C)C=CC1 | C26H31NO4
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | NaOH | 1 N, 7 ml | [OH-].[Na+]
product | 3-{4-[2-(3-Isopropylphenoxy)propionylamino]phenyl}hex-4-ynoic acid | 37% yield | C(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(CC(=O)O)C#CC)C)C=CC1 | C24H27NO4
